US06642240B2
(3,5-Bis-trifluoromethyl-benzylidene)-methylamine
A solution of 3,5-bis(trifluoromethyl)-benzaldehyde (412 μL) in dry THF (5 mL) was added dropwise to a solution of methylamine (2M in MeOH—3.12 mL) in dry THF (5 mL) at 23° C. under a nitrogen atmosphere. The reaction mixture was stirred overnight, then the solvent was evaporated in vacuo to give the title compound (385 mg) as a colourless oil.

reactant | 3,5-bis(trifluoromethyl)-benzaldehyde | 412 μL | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | methylamine | 2M, 3.12 mL | CN | CH5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3,5-Bis-trifluoromethyl-benzylidene)-methylamine | 385 mg | FC(C=1C=C(C=NC)C=C(C1)C(F)(F)F)(F)F | C10H7F6N
